US04277470
(d) 3-(2-Methoxyphenyl)-5'-methylthio-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide
56 mmoles of 3-(2-methoxyphenyl)-spiro[bicyclo[2.2.1]-heptane-2,2'-pyrrolidine]-5'-thione and 7 ml of methyl iodide in 220 ml of acetone are refluxed for 10 minutes. After cooling the mixture, the residue is filtered off. Pale yellow compound of melting point 228° C. (decomposition)

reactant | 3-(2-methoxyphenyl)-spiro[bicyclo[2.2.1]-heptane-2,2'-pyrrolidine]-5'-thione | 56 mmoles | COC1=C(C=CC=C1)C1C2CCC(C2)C12NC(CC2)=S | C17H21NOS
reactant | methyl iodide | 7 ml | CI | CH3I
solvent | acetone | 220 ml | CC(=O)C | C3H6O
product | 3-(2-Methoxyphenyl)-5'-methylthio-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide | I.COC1=C(C=CC=C1)C1C2CCC(C2)C12N=C(CC2)SC | InChI=1S/C18H23NOS.HI/c1-20-15-6-4-3-5-14(15)17-12-7-8-13(11-12)18(17)10-9-16(19-18)21-2;/h3-6,12-13,17H,7-11H2,1-2H3;1H
